Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
CC: transfer from ___ with hematuria, CT showing 
new R renal mass

 
Major Surgical or Invasive Procedure:
No surgical procedures.
Continuous Bladder irrigation 
 
History of Present Illness:
HPI: ___, otherwise healthy nurse from ___, who had come 
to ___ for a conference with a ___ day history of  passing 
clots per vagina and hematuria prior to the conference. She 
first noted the blood in her urine ___, while packing. She 
had no pain, so decided to continue on her trip. After flying 
out to ___ on ___, and being admittedly dehydrated, 
she noticed she passed more blood in her urine, but still denied 
pain. She did note some discomfort urinating, and had to strain 
to pass clots. However, the day prior to transfer to ___, she 
began to have some R flank pain and difficulty passing her 
urine. She went to ___ where a CT scan was 
obtained showing a new right renal mass, but she was discharge 
after 5 hours as her pain had resolved. The pain and worsening 
hematuria did recur several hours later, and she returned to 
___, where a 3 ay foley was placed and CBI was 
initiated. However, on stopping CBI she promptly clotted off the 
foley catheter. AT this time she was transferred to ___. At 
___ ED her foley was hand irrigated for a large volume of 
clot. At this time, she continues to complain of R flank pain, 
___, aching, in her R flank that occasionally radiates to her 
abdomen, and is not aggravated by movement or palpation. She 
denies fevers, chills, CP, SOB.

PE:
VS: 96.___ / 112/68 / ___% RA
Gen: AxOx3, NAD, laying on side in bed
P: CTAB
CV: RRR
Abd: soft, obese, NT/ND, no CVAT
ext: w/w/p, no c/c/e

Labs:
Chem: ___   
Coags: ___: 12.6  PTT: 26.3  INR: 1.1  
CBC: 13.4 > 37.6 < 251  N:86.6
UA/UCx: pending (urine dark red in bag)
 
Imaging: 
CT Abd-pelvis from ___, being loaded into system,
per ED read of CT shows R mid/lower pole mass, ~4.5x5.8x6.9 cm  
with ? of heterogenous R renal vein enhancement,

Assessment: ___ with 4 day history of intermittent hematuria 
despite CBI who presents with new diagnosis of Right renal mass.

 
Past Medical History:
PMH: mild htn, seasonal allergies, depression/anxiety, GERD, 
OSA, chronic cough X ___ years

PSH: tonsillectomy, adenoidectomy, anal fissure repair, b/l 
breast reduction, nasal turbinate surgery

S/p ovary sparing vaginal hysterectomy
G2P2, vaginal

Has established UROLOGIST, Dr. ___ who was working her 
up and planning a sling procedure for incontinence

Meds: hctz, lexapro, astelin, singulair, flonase, claritin, 
vaginal tablets, weekly allergy injections

ALL: zoloft (vertigo, nausea)

 
Social History:
___
Family History:
Father:  ___ glomerular nephritis w/ renal transplant in 
___ with daughter as graft donor.
Mother:  ___ ___, endometrial cancer, age ___
MGF: deceased age ___, lung cancer
Sister #2: Pancreatic cyst, surgically removed, benign
 
Physical Exam:
Pleasant, articulate woman in NAD, emotional at times. WdWn. No 
respiratory complaints except pre-existing chronic cough. Sleeps 
well at night with use of nasal CPAP. Multiple daily medications 
for respiratory support. 

On day of discharge ___:

No ovenight events, pain controlled with extra-strenght tylenol. 
Tolerating regular diet and voiding regularly and having bowel 
movements.

No respiratory distress
RRR
Abdomen obese, NT/ND
no wounds, no drains
Urine clearing, slight pink tinge
Extrems: No edema, no calf pain

___
09:00a

Hct: 34.8  
 
___  3:20p   Ca: 10.1 ALT: 19 AP: 76 Tbili: 0.7 AST: 20 

___ 07:55a

Na 139  Cl 103  BUN 17  GLU 130   AGap=13 
K  4.0 HCO3 27  CREAT 1.2  
Comments: Glucose: If Fasting, 70-100 Normal, >125 Provisional 
Diabetes 

Ca: 9.6 Mg: 2.4

WBC 14.7  HgB 12.3 PLTS 253 
           Hct 36.7  

Impression:  Hematuria, newly discovered RIGHT renal mass

PLAN:  D/c home to ___ for definitive management now that 
urine has cleared and patient stable. 
 

 
Pertinent Results:
Imaging: 
CT Abd-pelvis from ___, per ED read of CT shows R 
mid/lower pole mass, ~4.5x5.8x6.9 cm  with ? of heterogenous R 
renal vein enhancement

MRI Urogram ___:  Final result pending

DISKS For above studies sent home with patient for review with 
PCP and urologist

___ cytologies x 3 PENDING

___ 09:34PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
 
Brief Hospital Course:
___ visiting ___ for an occupational medicine nursing 
conference presented with history of intermittent hematuria.

HOSPITAL COURSE:
Patient was admitted to urology. There were no operative 
procedures or complications during this admission. Patient was 
transferred from ___ for evaluation of her 
hematuria and CT SCAN that demonstrated RIGHT renal mass. She 
was evaluated by Urology, admitted, started on continuous 
bladder irrigation (CBI).  Hospital course was uneventful with 
gradual resolution of gross hematuria on CBI which was d/c'd and 
since patient has voided successfully on own and urine has 
continued to clear. Pain is well controlled with Extra strength 
tylenol. She has resumed her admission medications and is 
prepared to return home to ___ for definitive management 
with her PCP/Urologist. At discharge patient's pain was well 
controlled with PO pain medications, ambulating without 
assistance, and voiding.  Patient was given instructions to 
follow up with Dr. ___ but to see her PCP/UROLOGIST back 
at home ASAP. 
 
Medications on Admission:
Meds: hctz, lexapro, astelin, singulair, flonase, claritin, 
estradiol vaginal tablets, weekly allergy injections
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
2. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed for constipation, heartburn. 
 
3. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
4. Estradiol 25 mcg Tablet Sig: One (1)  Vaginal 2 x per week.  
5. Acetaminophen 500 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain, fever, headache.  
6. Escitalopram 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
7. Azelastine 137 mcg Aerosol, Spray Sig: One (1) intranasal 
squirt Nasal BID (2 times a day).  
8. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal BID (2 times a day).  
9. Montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Claritin 10 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hematuria, RIGHT renal mass
 
Discharge Condition:
Stable
 
Discharge Instructions:
It was a pleasure participating in your care.
-You may shower and bathe normally.  
-Do not drive or drink alcohol if taking narcotic pain 
medication.  

-Resume all of your home medications, but please avoid 
aspirin/advil for one week.   

 
Followup Instructions:
___